US05399580
(±)-(1R*,2S*,3S*,5S*)-3-(Acetoxymethyl)-5-(5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate
(±)-(1R*,2S*,3S*,5S*)-3-(Acetoxymethyl)-5-(4,5-dichloro-2-nitroanilino)-1,2-cyclopentanediyl diacetate (2.75 g, 5.93 mmol) and Raney nickel (aqueous slurry, Aldrich, 300 mg wet) in isopropanol (250 mL) was shaken under hydrogen (40 psi) in a Parr shaker for 2.25 hours. Catalyst was filtered off with Celite and the filtrate acidified with 98% formic acid (5 mL) and concentrated to an orange oil. The oil was diluted with additional 98% formic acid (45 mL) and the resulting orange solution refluxed for 40 minutes. Volatiles were removed and the remaining dark oil dissolved in chloroform (100 mL). The chloroform solution was washed with saturated aqueous sodium bicarbonate (3×10 mL), dried (sodium sulfate), and evaporated to a foam which was chromatographed on silica gel. Title compound eluted with methanol:chloroform/3:97 as a white foam from ethyl acetate (2.26 g, 86%); 1H-NMR (DMSO-d6) δ: 8.57, 8.17, 7.97 (all s, 1 each, 3 benzimidazole CH), 5.6 (m, 1, CHO), 5.3-5.1 (m, 2, CHO and CHN), 4.35-4.15 (m, 2, CH2O), 2.6-2.4 (m overlapping solvent, 2 CH), 2.10, 2.06, 1.92 (all s) overlapped by 2.0 (m, total 10,3CH3CO and CH).

reactant | (±)-(1R*,2S*,3S*,5S*)-3-(Acetoxymethyl)-5-(4,5-dichloro-2-nitroanilino)-1,2-cyclopentanediyl diacetate | 5.93 mmol, 2.75 g | C(C)(=O)O[C@H]1[C@H]([C@@H](C[C@@H]1NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])COC(C)=O)OC(C)=O | C18H20Cl2N2O8
reactant | isopropanol | 250 mL | C(C)(C)O | C3H8O
catalyst | Raney nickel | 300 mg | [Ni] | Ni
product | (±)-(1R*,2S*,3S*,5S*)-3-(Acetoxymethyl)-5-(5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate | C(C)(=O)O[C@H]1[C@H]([C@@H](C[C@@H]1N1C=NC2=C1C=C(C(=C2)Cl)Cl)COC(C)=O)OC(C)=O | C19H20Cl2N2O6
